US07662831B2
Following the procedure of Example 1, Step 3, 2-nitro-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazole (1.1 g, 4.3 mmol) and 5% palladium on carbon (0.10 g) in ethanol (70 mL) was hydrogenated to provide 5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-amine.

reactant | 2-nitro-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazole | 4.3 mmol, 1.1 g | [N+](=O)([O-])C=1C=C2C=3CCCCC3N3C2=C(C1)CCC3 | C15H16N2O2
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-amine | C1=C2C=3CCCCC3N3C2=C(C=C1N)CCC3 | C15H18N2
